US04128429
2-[N-Pyrollidinyl]ethyl Tributylstannyl Ether is prepared from 65.0 gm (.109 mole) bis(tributyltin) oxide and 25.0 gm (.217 mole) N-(β-hydroxyethyl)pyrolidine in 200 ml benzene. This is stirred and heated to reflux in a system that contains a Dean-Starke tube. After refluxing 20 hours, a total of 2.0 ml of water (theory 1.96 ml) had collected in the Dean-Starke tube. The solvent is stripped off on a rotating evaporator to provide 94.0 gm of yellow liquid. This is fractionated at reduced pressure with collection at 150°-154° C. at 0.3 mm of water-white liquid (Percent yield - 63). Infrared spectral analysis shows this liquid to be the desired ether.

reactant | bis(tributyltin) oxide | .109 mole, 65.0 gm | CCCC[Sn](CCCC)(CCCC)O[Sn](CCCC)(CCCC)CCCC
reactant | N-(β-hydroxyethyl)pyrolidine | .217 mole, 25.0 gm | OCCN1CCCC1 | C6H13NO
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2-[N-Pyrollidinyl]ethyl Tributylstannyl Ether | C(CCC)[Sn](CCCC)(CCCC)OCCN1CCCC1 | InChI=1S/C6H12NO.3C4H9.Sn/c8-6-5-7-3-1-2-4-7;3*1-3-4-2;/h1-6H2;3*1,3-4H2,2H3;/q-1;;;;+1
